US04503230
To a 100 ml round bottom, 3-necked flask equipped with thermometer, stirrer, were charged 0.5 g (3.2 mmoles) 2-(phenylmethylsulfonyl)-4-methylpyridine 1-oxide, 10 ml CH2Cl2, 0.05 g benzyltriethylammonium chloride and 0.75 ml n-butyl bromide. Said mixture also contained about 5 mg (0.28 mmoles) of water. Immediately, a dark red color formed while the reaction mixture was kept at about 15° while stirring. With time, the color faded, and after 3 hours reaction time, the product (2-(1-phenylpentylsulfonyl)-4-methylpyridine 1-oxide) was isolated, having a melting range of 120°-122° C. The product structure was confirmed by NMR and IR analysis.

reactant | 2-(phenylmethylsulfonyl)-4-methylpyridine 1-oxide | 3.2 mmoles, 0.5 g | C1(=CC=CC=C1)CS(=O)(=O)C1=[N+](C=CC(=C1)C)[O-] | C13H13NO3S
reactant | n-butyl bromide | 0.75 ml | C(CCC)Br | C4H9Br
reactant | water | 0.28 mmoles, about 5 mg | O | H2O
catalyst | benzyltriethylammonium chloride | 0.05 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(1-phenylpentylsulfonyl)-4-methylpyridine 1-oxide | C1(=CC=CC=C1)C(CCCC)S(=O)(=O)C1=[N+](C=CC(=C1)C)[O-] | C17H21NO3S
